US09290504B2
N-Bromosuccinimide (24.69 mmol, 4.4 g) was added to a stirred solution of (S)-benzyl 2-(8-chloroimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (24.94 mmol, 8.9 g) in DMF (145 mL). The reaction was stirred 3 h at rt. The mixture was poured (slowly) in a stirred mixture of water (145 mL), ethyl acetate (145 mL) and brine (145 mL). The mixture was then transferred into a separating funnel and extracted. The water layer was extracted with 2×145 mL ethyl acetate. The combined organic layers were washed with 3×300 mL water, 300 mL brine, dried over sodium sulfate, filtered and evaporated. The product was purified using silica gel chromatography (ethyl acetate/heptane=3/1 v/v %) to give 8.95 g of (S)-benzyl 2-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (82.3%).

reactant | N-Bromosuccinimide | 24.69 mmol, 4.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (S)-benzyl 2-(8-chloroimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 24.94 mmol, 8.9 g | ClC=1C=2N(C=CN1)C(=NC2)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C18H17ClN4O2
reactant | water | 145 mL | O | H2O
reactant | ethyl acetate | 145 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 145 mL | CN(C)C=O | C3H7NO
solvent | brine | 145 mL | [Cl-].[Na+].O
product | (S)-benzyl 2-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 8.95 g, 82.3% | BrC=1N=C(N2C1C(=NC=C2)Cl)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C18H16BrClN4O2
